US04088695
(i) Preparation of 6-(7-hydroxyheptyl)-7-(5-ethoxy-3-oxopent-1-enyl)-1,4-dioxaspiro[4,4]nonane
The 3-ethoxypropionylmethylenetriphenylphosphorane (m.p. 63°-65° C.), used as a starting material in the above preparation, was prepared from 1-chloro-4-ethoxybutan-2-one, via 4-ethoxy-2-oxobutyltriphenylphosphonium chloride (m.p. 157°-160° C.), by proceeding in a similar manner to that hereinbefore described in Example 3(i) for the preparation of hexanoylmethylenetriphenylphosphorane from 1-chloroheptan-2-one.

reactant | 3-ethoxypropionylmethylenetriphenylphosphorane | C(C)OCCC(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H25O2P
reactant | 1-chloro-4-ethoxybutan-2-one | ClCC(CCOCC)=O | C6H11ClO2
reactant | 4-ethoxy-2-oxobutyltriphenylphosphonium chloride | [Cl-].C(C)OCCC(C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O
reactant | hexanoylmethylenetriphenylphosphorane | C(CCCCC)(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H27OP
reactant | 1-chloroheptan-2-one | ClCC(CCCCC)=O | C7H13ClO
product | 6-(7-hydroxyheptyl)-7-(5-ethoxy-3-oxopent-1-enyl)-1,4-dioxaspiro[4,4]nonane | OCCCCCCCC1C2(OCCO2)CCC1C=CC(CCOCC)=O | C21H36O5
